US05342903
A 750 ml sulfonation flask equipped with thermometer, reflux condenser, N2 inlet and metering device is charged with 78.14 g (0.5 mol) of 4-tert-butylcyclohexanol and 0.83 g of catalyst A and the reaction mixture is heated to 100° C., whereupon the educt melts. With efficient stirring, 39.2 ml (0.5 mol) of epichlorohydrin are added, and the reaction mixture is thereafter allowed to react for 6 h. After cooling to 50° C., 2 g of tetramethylammonium chloride are added and to the solution are then added 4 g (0.05 mol) of a 50% aqueous solution of NaOH over 5 min, followed by the addition of 19 g (0.475 mol) of pulverised NaOH in increments over 45 min and the suspension is stirred for 2.5 h. The suspension is filtered, the residue is washed with 100 ml of toluene and the phases are separated. The organic phase is dried over MgSO4, filtered, and the filtrate is freed from solvent on a rotary evaporator at a bath temperature of 60° C., giving 103.0 g (97% of theory) of colourless glycidyl ether of 4-tert-butylcyclohexanol having the following properties: epoxy value: 4.09 eq/kg (87% of theory); total chlorine content: 1.8%; concentration of hydrolisable chlorine: 270 ppm.

reactant | 4-tert-butylcyclohexanol | 0.5 mol, 78.14 g | C(C)(C)(C)C1CCC(CC1)O | C10H20O
reactant | epichlorohydrin | 0.5 mol, 39.2 ml | C(Cl)C1CO1 | C3H5ClO
reactant | NaOH | [OH-].[Na+]
reactant | NaOH | 0.475 mol, 19 g | [OH-].[Na+]
catalyst | tetramethylammonium chloride | 2 g | [Cl-].C[N+](C)(C)C
product | glycidyl ether | 103.0 g, 97% | C(C1CO1)OCC1CO1 | C6H10O3
